US06159990
To a well stirred solution of hydroxy-(3,4-difluorophenyl)-acetonitrile (3.34 g, 20 mmol), was added a 1.0 M solution of LiAlH4 in ether (40 mL, 40 mmol) dropwise at 0° C. The resulting yellow solution was then stirred at room temperature for 2 h. The reaction mixture was cooled to 0° C. and then carefully quenched sequentially with 1.5 mL of water, 1.5 mL of 3N NaOH followed by 4.5 mL of water. The resulting suspension was filtered thro' a fritted glass funnel. To the residue was added 100 mL Et2O and the suspension was heated to reflux for 20 min. The suspension was filtered and was combined with the previous filtrate, dried over MgSO4, filtered and the solvent was removed in vacuo. 2-amino-1-(3,4-difluorophenyl)-ethanol was obtained as a yellow glassy syrup (3.3 g, 99%) which was used in the next step without further purification.

reactant | hydroxy-(3,4-difluorophenyl)-acetonitrile | 20 mmol, 3.34 g | OC(C#N)C1=CC(=C(C=C1)F)F | C8H5F2NO
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ether | 40 mmol, 40 mL | CCOCC | C4H10O
product | 2-amino-1-(3,4-difluorophenyl)-ethanol | NCC(O)C1=CC(=C(C=C1)F)F | C8H9F2NO
